US04007276
2-(3-Hydroxyphenyl)-5H-s-triazolo[5,1-a] isoindole
2-(3-Benzyloxyphenyl)-5H-s-triazolo[5,1-a] isoindole (17 g) is suspended in 500 ml of ethanol and hydrogenated at atmospheric pressure and room temperature in the presence of 3 g of 10% Pd on charcoal. After addition of 500 ml of methylene chloride, the catalyst is filtered off and the solution is concentrated to dryness. The title product is purified by crystallization from dioxane. Yield 10.68 g (85.7%); m.p. 251-2°C.

reactant | 2-(3-Benzyloxyphenyl)-5H-s-triazolo[5,1-a] isoindole | 17 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3C2)=N1 | C22H17N3O
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | 3 g | [Pd] | Pd
product | 2-(3-Hydroxyphenyl)-5H-s-triazolo[5,1-a] isoindole | OC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3C2)=N1 | C15H11N3O
